US06846946B2
Benzyl Chloroacetate
A mixture consisting of sodium chloroacetate (2.344 g, 20 millimoles, Aldrich, 98%), sodium iodide (0.152 g, 1 millimole, Aldrich, 98%) and water (249.3 g) was introduced to a three-necked 500 mL flask. The organic phase consisting of benzyl chloride (10.139. g, 80 millimoles, Aldrich, 97%), durene (GC standard, 0.781 g, 6 millimoles, Aldrich, 98%), and Adogen 464 (0.900 g, 2 millimoles, Aldrich) was added to the aqueous phase and the two phase system was stirred mechanically (600 rpm, a calibrated photo-tachometer) for about seven hours at 45° C. The organic phase:aqueous phase weight ratio was 1:21. The aliquots were taken at 0, 30, 97, 186, 300 and 400 minutes after the addition of the organic phase. After a brief centrifugation the phases were separated and the organic phase of each aliquot was injected into the GC instrument. The yield of benzyl chloroacetate based on the limiting reactant (sodium chloroacetate) was 55%, the conversion of the chloroacetate anion was 67%. Benzyl chloroacetate was accompanied by small quantities of benzyl iodide and benzyl alcohol and an unidentified product. Its yield was above 10%.

reactant | sodium chloroacetate | 20 millimoles, 2.344 g | ClCC(=O)[O-].[Na+]
reactant | sodium iodide | 1 millimole, 0.152 g | [I-].[Na+]
reactant | benzyl chloride | 80 millimoles | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | durene | 6 millimoles, 0.781 g | C=1(C)C(C)=CC(C)=C(C)C1 | C10H14
catalyst | Adogen 464 | 2 millimoles, 0.900 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | 249.3 g | O | H2O
product | Benzyl Chloroacetate | yield was above 10% | ClCC(=O)OCC1=CC=CC=C1 | C9H9ClO2
